US07491716B2
N-[tert-butoxycarbonyl]N-[2-(methanesulfonyloxy)eth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine
Dissolve N-[tert-butoxycarbonyl]N-[2-hydroxyeth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine (1.15 g, 3.78 mmol) in tetrahydrofuran (22 mL) under nitrogen and cool to 0° C. Add triethylamine (1.91 g, 18.88 mmol) and methanesulfonic anhydride (0.72 g, 4.15 mmol). Stir the reaction mixture for 2 hours at 0° C. Add water to the reaction mixture and extract the aqueous layer with ethyl acetate. Combine the organic layers, dry with anhydrous sodium sulfate, filter, and concentrate under reduced pressure to give the desired compound as colorless oil.

reactant | N-[tert-butoxycarbonyl]N-[2-hydroxyeth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine | 3.78 mmol, 1.15 g | C(C)(C)(C)OC(=O)N(CCO)CC=1C=C(C=C2C=CNC12)C | C17H24N2O3
reactant | triethylamine | 18.88 mmol, 1.91 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 4.15 mmol, 0.72 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
product | N-[tert-butoxycarbonyl]N-[2-(methanesulfonyloxy)eth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C)CC=1C=C(C=C2C=CNC12)C | C18H26N2O5S
